US07208494B2
a) (4R,9aR)-7-Methoxymethyl-4,6-dimethyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester
This compound was prepared in analogy to example 1, intermediate d) from (4R,9aR)-7-hydroxymethyl-4,6-dimethyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester, sodium hydride and methyl iodide.

reactant | (4R,9aR)-7-hydroxymethyl-4,6-dimethyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC(=C(N=C3N2[C@@H](C1)C)C)CO | C18H27N3O3
reactant | sodium hydride | [H-].[Na+]
reactant | methyl iodide | CI | CH3I
product | (4R,9aR)-7-Methoxymethyl-4,6-dimethyl-3,4,9,9a-tetrahydro-1H-2,4a,5-triaza-fluorene-2-carboxylic acid tert-butyl ester | C(C)(C)(C)OC(=O)N1C[C@H]2CC3=CC(=C(N=C3N2[C@@H](C1)C)C)COC | C19H29N3O3
